* Y:\Functional circuitry\Lab1\full-comparator4.asc
R1 L 0 100k
C1 L 0 100f
R2 E 0 100k
C2 E 0 100f
R3 G 0 100k
C3 G 0 100f
V3 VDD 0 1
V5 FE 0 1
XX1 A3 B3 N001 N002 N003 VDD L E G full-comparator-sequential
XX2 A2 B2 N004 N005 N006 VDD N001 N002 N003 full-comparator-sequential
XX3 A1 B1 N007 N008 N009 VDD N004 N005 N006 full-comparator-sequential
XX4 A0 B0 0 FE 0 VDD N007 N008 N009 full-comparator-sequential
V4 A0 0 PULSE(0 1 1n 10p 10p 2n 4n)
V6 B0 0 PULSE(0 1 1n 10p 10p 4n 8n)
V7 A1 0 PULSE(0 1 1n 10p 10p 8n 16n)
V8 B1 0 PULSE(0 1 1n 10p 10p 16n 32n)
V9 A2 0 PULSE(0 1 1n 10p 10p 32n 64n)
V10 B2 0 PULSE(0 1 1n 10p 10p 64n 128n)
V11 A3 0 PULSE(0 1 1n 10p 10p 128n 256n)
V12 B3 0 PULSE(0 1 1n 10p 10p 256n 512n)

* block symbol definitions
.subckt full-comparator-sequential A B FL FE FG VDD L E G
XX1 A B VDD N003 N007 N009 full-comparator1
XX2 FL FL VDD N014 nand
XX3 FG FG VDD N017 nand
XX4 N014 FE VDD N015 nand
XX5 FE N017 VDD N016 nand
XX6 N015 N016 VDD N006 nand
XX7 N003 N006 VDD N005 nand
XX8 N007 N006 VDD N008 nand
XX9 N009 N006 VDD N010 nand
XX10 FL FL VDD N004 nand
XX11 N001 N001 VDD N002 nand
XX12 N002 N004 VDD L nand
XX13 FG FG VDD N013 nand
XX14 N011 N011 VDD N012 nand
XX15 N012 N013 VDD G nand
XX16 N005 N005 VDD N001 nand
XX17 N008 N008 VDD E nand
XX18 N010 N010 VDD N011 nand
.ends full-comparator-sequential

.subckt full-comparator1 A B VDD L E G
XX1 B B VDD N005 nand
XX2 A A VDD N002 nand
XX3 A N005 VDD N004 nand
XX4 N002 B VDD N001 nand
XX5 N001 N004 VDD N003 nand
XX6 N001 N001 VDD L nand
XX7 N004 N004 VDD G nand
XX8 N003 N003 VDD E nand
.ends full-comparator1

.subckt nand A B VDD Y
M1 VDD A Y VDD PMOS l=90n w=400n
M2 VDD B Y VDD PMOS l=90n w=400n
M3 Y A N001 0 NMOS l=90n w=200n
M4 N001 B 0 0 NMOS l=90n w=200n
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\aleksejlapin\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 2048n 0 32p
.include 90nm_bulk.txt
.backanno
.end
